US05576324
To a solution of 6-allyl-5-hydroxy-8-methylcarbostyril (3.2 g, 14.9 mmol) in pyridine (50 ml), acetic acid (3.5 34.3 mmol) was added and stirred at room temperature for hour. The mixture was condensed and dissolved in chloroform. The resultant solution was washed with saturated aqueous sodium bicarbonate solution, aqueous 2N-HCl solution, and water, and dried and condensed. As a result, 3.5 g of 5-acetoxy-6-allyl-8-methylcarbostyril was obtained as colorless crystals (91.4%).

reactant | 6-allyl-5-hydroxy-8-methylcarbostyril | 14.9 mmol, 3.2 g | C(C=C)C=1C(=C2C=CC(NC2=C(C1)C)=O)O | C13H13NO2
reactant | acetic acid | 34.3 mmol | C(C)(=O)O | C2H4O2
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-acetoxy-6-allyl-8-methylcarbostyril | 3.5 g | C(C)(=O)OC1=C2C=CC(NC2=C(C=C1CC=C)C)=O | C15H15NO3
